US06576643B2
c) (±)-10,1-Dihydro-3-[3-(isoquinoline-1-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid
According to the procedure of Example 6 (c), except substituting ethyl (±)-10,11-dihydro-3-[3-(isoquinoline-1-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate for the ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate, the title compound was prepared as an amber solid: MS (ES) m/e 453.2(M+H)+. Anal. Calcd for C29H28N2O3.1.3 TFA.0.25 H2O: C, 62.71; H, 4.96; N, 4.63. Found: C, 62.45; H, 4.92; N, 4.41.

reactant | ethyl (±)-10,11-dihydro-3-[3-(isoquinoline-1-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | C1(=NC=CC2=CC=CC=C12)NCCCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C31H32N2O3
reactant | ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C([C@H](C2)CC(=O)OCC)C=CC=C3)C1 | C27H30N2O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | O | H2O
product | (±)-10,1-Dihydro-3-[3-(isoquinoline-1-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid | C1(=NC=CC2=CC=CC=C12)NCCCOC1=CCC=2C(CC3=C(C(C2)CC(=O)O)C=CC=C3)=C1 | C29H28N2O3
